US06020078
A mixture of 12.28 g of ethyl 2-(benzothiazolyl)acetate was refluxed with 15 g of 1,1,7,7-tetramethyl-8-hydroxy-9-formyljulolidine in 120 mL of acetonitrile containing 2 mL of piperidine as a base catalyst for 15 h. Upon cooling, the precipitated bright orange solid was filtered and washed with some acetonitrile to give 19 g (79% yield) of pure dye C-545T: m.p. 229-230° C.; Tg=100° C.

reactant | ethyl 2-(benzothiazolyl)acetate | 12.28 g | S1C(=NC2=C1C=CC=C2)CC(=O)OCC | C11H11NO2S
reactant | 1,1,7,7-tetramethyl-8-hydroxy-9-formyljulolidine | 15 g | CC1(CCN2CCC(C3=C(C(=CC1=C32)C=O)O)(C)C)C | C17H23NO2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | C-545T | 19 g, 79% yield | CC1(CCN2CCC(C3=C4C(=CC1=C32)C=C(C(=O)O4)C5=NC6=CC=CC=C6S5)(C)C)C | C26H26N2O2S
